US08877794B2
38.2 [1-(4-Chloro-phenyl)-cyclobutyl]-(3-hydroxy-phenyl)-methanone
(3-Benzyloxy-phenyl)-[1-(4-chloro-phenyl)-cyclobutyl]-methanone (780 mg, 2 mmol) was dissolved in ethyl acetate, containing Pd/C (80 mg, 10% on C). Hydrogenation was performed at room temperature during 4 hours. Reaction was filtered through celite and the solvent evaporated. The product (548 mg) was used in the next step without further purification.

reactant | (3-Benzyloxy-phenyl)-[1-(4-chloro-phenyl)-cyclobutyl]-methanone | 2 mmol, 780 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(=O)C1(CCC1)C1=CC=C(C=C1)Cl | C24H21ClO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 80 mg | [Pd] | Pd
product | [1-(4-Chloro-phenyl)-cyclobutyl]-(3-hydroxy-phenyl)-methanone | ClC1=CC=C(C=C1)C1(CCC1)C(=O)C1=CC(=CC=C1)O | C17H15ClO2
